US07238808B2
3-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.5) (118 mg, 0.4 mmol) and 3-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide (148 mg, 0.48 mmol) (example B.6) according to general procedure II. Obtained as a yellow solid (46 mg, 22%). MS (ISP) 521.5 f (M+H)+]; mp 202–204° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.4 mmol, 118 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#C | C17H12ClN3
reactant | 3-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | 0.48 mmol, 148 mg | BrC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H14BrNO3S
product | 3-[5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C#CC=2C=C(C=CC2)S(=O)(=O)NC(CO)(C)C | C27H25ClN4O3S
